datasets/10k_Mayr_OG.csv
SMILES Labelled
"Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl.[CH-:10]([N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[C:81]#[N:82]>>Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20]([CH:10]([N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)[C:81]#[N:82])([O-:21])[C:41](Cl)=[C:42]1Cl 10=20;20,21=21"
"C1CCC[C:11](=[CH2:10])CCC1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C+:11]2CCCCCCC2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1CC[C:20](=[O:21])CC1.O=[N+]([O-])C1=CC([N+](=O)[O-])=CC([C:61]([O-:10])=[O:62])=C1>>O=[N+]([O-])C1=CC([N+](=O)[O-])=CC([C:61]([O:10][C:20]2([O-:21])CCCCC2)=[O:62])=C1 10=20;20,21=21"
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Ge:73](C)(C)C.N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Ge:73](C)(C)C.N#C[C:21]1=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]1[H:10] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:11](=[CH2:10])[Si:62](C)(C)[Si:63](C)(C)C.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>C[C+:11]([CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)[Si:62](C)(C)[Si:63](C)(C)C 10,11=10,20"
"C1CC[CH:63]=[CH:62][CH:11]=[CH:10]C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2CCCC[CH:63]=[CH:62][CH+:11]2)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC[Pb:63](CC)(CC)[CH2:62][CH2:11][H:10].FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34]>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].CC[Pb:63](CC)(CC)[CH2:62][CH2+:11].FC(F)(F)[S:20][H:10] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CO[C:72]1=[CH:73][CH:64]=[CH:63][C:62]2=[C:61]1[CH:10]=[CH:11][NH:12]2>>CO[C:72]1=[CH:73][CH:64]=[CH:63][C:62]2=[C:61]1[CH:10]([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)/[CH:41]=[CH:42]/C1=CC=C(Cl)C=C1)[CH:11]=[NH+:12]2 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[Zr:11]12345678([CH3:10])(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH3:10])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[Zr+:11]12345678(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18 10,11=10,20"
"C1CCCCC[C:11](=[CH2:10])CCCC1.CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[O:50][C:22](=[CH:21][CH:20]([CH2:10][C+:11]1CCCCCCCCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.COC1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C)=[O:64])C=C1>>COC1=CC=C([C:11]([CH2:10][CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[C:42](C2=CC=CC=C2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)=[NH+:12][C:63](C)=[O:64])C=C1 10,11=10,20;12=11,12"
"[O+]#C[Mn-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10].[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>[O+]#C[Mn-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[O-][N+:22](=[C:21]1[CH:20]([H:10])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"COC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1>>COC1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)C=C1 10,11=10,20;12=11,12"
"CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>CC(C)(C1=CC=CC=C1)[O-:21].C[Sn:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C.FC(F)(F)[S:20][H:10] 10,11=10,20;20,21=21"
